US04305881
0.334 g (48 mg-atom) of lithium are added while stirring and gassing with argon to 170 ml of dry liquid ammonia at -31° C. to -33° C. The resulting dark blue mixture is stirred for 15 minutes and then treated dropwise within 40 minutes with a solution of 3.0 g (8.76 mmol) of (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one in 208 ml of ether/tetrahydrofuran (4.2:1). After stirring for an additional 15 minutes, 0.2 ml of isoprene are added to the blue mixture and the resulting pink mixture is subsequently treated, while stirring and gassing with argon, first with 3.045 g (57 mmol) of ammonium chloride in portions and then with 0.0608 g (8.7 mg-atom) of lithium. As soon as the lithium has dissolved, 0.468 g (8.7 mmol) of ammonium chloride and then a further 0.0608 g (8.7 mg-atom) of lithium are added. This procedure, i.e. the addition of 8.7 mmol of ammonium chloride followed by 8.7 mg-atom of lithium, is repeated a further fourteen times, for which a total of 6.552 g (122 mmol) of ammonium chloride and 0.851 g (122 mg-atom) of lithium are required. As soon as the lithium of the last addition has dissolved, 10.8 g (180 mmol) of ammonium chloride and then 150 ml of ether are added, and the ammonia is evaporated with stirring. The resulting suspension is diluted at 0° C. with 200 ml of water and extracted with ethyl acetate. The extract is washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated at 40° C./11 Torr. Chromatography of the residue on 90 g of silica gel with benzene/ethyl acetate (1:1) and ethyl acetate yields 1.93 g (63%) of uniform, crystalline (20S)-1α,3β,21-trihydroxy-20-methyl-pregn-5-ene of melting point 205°-207° C.; [α]D25 =-25.8° (c=0.5 in methanol). The analytical sample is prepared by recrystallisation from acetone; melting point 206°-208° C., [α]D25 =-27° (c=0.5 in methanol).

reactant | lithium | 0.334 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one | 8.76 mmol, 3.0 g | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C22H30O3
reactant | isoprene | 0.2 ml | C=CC(C)=C | C5H8
reactant | ammonium chloride | 57 mmol, 3.045 g | [Cl-].[NH4+]
reactant | lithium | 0.0608 g | [Li] | Li
reactant | ammonium chloride | 8.7 mmol, 0.468 g | [Cl-].[NH4+]
reactant | lithium | 0.0608 g | [Li] | Li
reactant | ammonium chloride | 8.7 mmol | [Cl-].[NH4+]
reactant | ammonium chloride | 122 mmol, 6.552 g | [Cl-].[NH4+]
reactant | lithium | 0.851 g | [Li] | Li
reactant | ammonium chloride | 180 mmol, 10.8 g | [Cl-].[NH4+]
solvent | ether tetrahydrofuran | 208 ml | CCOCC.O1CCCC1
solvent | ether | 150 ml | CCOCC | C4H10O
product | (20S)-1α,3β,21-trihydroxy-20-methyl-pregn-5-ene | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C22H36O3
